US08748462B2
4-(4-(Chloromethyl)-2-(1-(methoxymethyl)cyclopentyl)phenyl)-5-fluoro-2-methoxypyridine (27.4)
To a solution of (4-(5-fluoro-2-methoxypyridin-4-yl)-3-(1-(methoxymethyl)cyclopentyl)phenyl)methanol (71.0 mg, 206 μmol) DMF (10 uL), and DCM (4.0 mL) was slowly added thionyl chloride (15.0 μL, 206 μmol) at 0° C. After addition, the resulting mixture was stirred at room temperature for 1 hour. The solvent was removed providing the product which was used in the next step. MS ESI (pos.) m/e: 364.2 (M+H)+.

reactant | (4-(5-fluoro-2-methoxypyridin-4-yl)-3-(1-(methoxymethyl)cyclopentyl)phenyl)methanol | 206 μmol, 10 uL, 71.0 mg | FC=1C(=CC(=NC1)OC)C1=C(C=C(C=C1)CO)C1(CCCC1)COC | C20H24FNO3
reactant | thionyl chloride | 206 μmol, 15.0 μL | S(=O)(Cl)Cl | Cl2OS
solvent | DCM | 4.0 mL | C(Cl)Cl | CH2Cl2
product | 4-(4-(Chloromethyl)-2-(1-(methoxymethyl)cyclopentyl)phenyl)-5-fluoro-2-methoxypyridine | ClCC1=CC(=C(C=C1)C1=CC(=NC=C1F)OC)C1(CCCC1)COC | C20H23ClFNO2
